### PR TITLE
[Merged by Bors] - feat: Finsets and multisets are graded

### PR DESCRIPTION
**Pull request by YaelDillies**
Characterise `IsAtom`, `IsCoatom`, `Covby` in `Set α`, `Multiset α`, `Finset α` and deduce that `Multiset α`, `Finset α` are graded orders.

Note I am moving some existing characterisations to here because it makes sense thematically, but I could be convinced otherwise.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Multiset/Basic.lean [hunk 1]
```diff
@@ -388,6 +389,9 @@ instance : HasSubset (Multiset α) :=
 instance : HasSSubset (Multiset α) :=
   ⟨fun s t => s ⊆ t ∧ ¬t ⊆ s⟩
 
+instance instIsNonStrictStrictOrder : IsNonstrictStrictOrder (Multiset α) (· ⊆ ·) (· ⊂ ·) where
```
Comment (eric-wieser) [inline Mathlib/Data/Multiset/Basic.lean:392]:
```suggestion
instance instIsNonstrictStrictOrder : IsNonstrictStrictOrder (Multiset α) (· ⊆ ·) (· ⊂ ·) where
```

File: Mathlib/Data/Finset/Grade.lean [hunk 2]
```diff
@@ -0,0 +1,158 @@
...
+
+@[simp] lemma isAtom_singleton (a : α) : IsAtom ({a} : Multiset α) := isAtom_iff.2 ⟨_, rfl⟩
+
+instance instGradeMinOrder : GradeMinOrder ℕ (Multiset α) where
+  grade := card
+  grade_strictMono := card_strictMono
+  covby_grade s t := Covby.card_multiset
+  isMin_grade s hs := by rw [isMin_iff_eq_bot.1 hs]; exact isMin_bot
+
+@[simp] protected lemma grade (m : Multiset α) : grade ℕ m = card m := rfl
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Grade.lean:48]:
```suggestion
@[simp] protected lemma grade_eq (m : Multiset α) : grade ℕ m = card m := rfl
```

File: Mathlib/Data/Finset/Grade.lean [hunk 3]
```diff
@@ -0,0 +1,158 @@
...
+
+instance instGradeMinOrder_multiset : GradeMinOrder (Multiset α) (Finset α) where
+  grade := val
+  grade_strictMono := val_strictMono
+  covby_grade _ _ := Covby.finset_val
+  isMin_grade s hs := by rw [isMin_iff_eq_bot.1 hs]; exact isMin_bot
+
+@[simp] lemma grade_multiset (s : Finset α) : grade (Multiset α) s = s.1 := rfl
+
+instance GradeMinOrder_nat : GradeMinOrder ℕ (Finset α) where
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Grade.lean:150]:
```suggestion
instance instGradeMinOrder_nat : GradeMinOrder ℕ (Finset α) where
```
to match the one above

File: Mathlib/Data/Finset/Grade.lean [hunk 4]
```diff
@@ -0,0 +1,158 @@
...
+variable [Fintype α] [DecidableEq α]
+
+lemma isCoatom_compl_singleton (a : α) : IsCoatom ({a}ᶜ : Finset α) := (isAtom_singleton a).compl
+
+protected lemma isCoatom_iff : IsCoatom s ↔ ∃ a, s = {a}ᶜ := by
+  simp_rw [← isAtom_compl, Finset.isAtom_iff, compl_eq_iff_isCompl, eq_compl_iff_isCompl]
+
+end Fintype
+
+instance instGradeMinOrder_multiset : GradeMinOrder (Multiset α) (Finset α) where
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Grade.lean:142]: This should be in the module docstring, and perhaps is deserving of a sentence or two of explanation here too.

Comment (YaelDillies) [reply Mathlib/Data/Finset/Grade.lean:144]: I did the other way around, adding a docstring but not mentioning it in the module doc since I believe it's not mathematically very meaningful.

File: Mathlib/Data/Finset/Grade.lean [hunk 5]
```diff
@@ -0,0 +1,160 @@
...
+  covby_grade _ _ := Covby.finset_val
+  isMin_grade s hs := by rw [isMin_iff_eq_bot.1 hs]; exact isMin_bot
+
+@[simp] lemma grade_multiset_eq (s : Finset α) : grade (Multiset α) s = s.1 := rfl
+
+instance instGradeMinOrder_nat : GradeMinOrder ℕ (Finset α) where
+  grade := card
+  grade_strictMono := card_strictMono
+  covby_grade _ _ := Covby.card_finset
+  isMin_grade s hs := by rw [isMin_iff_eq_bot.1 hs]; exact isMin_bot
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Grade.lean:156]: Should this follow by composition in some way?

Comment (YaelDillies) [reply Mathlib/Data/Finset/Grade.lean:156]: Yes, although it's
* not practical
* gives worse defeq

We don't have any example of graded orders in mathlib yet so it's hard to tell what works and what doesn't yet.

File: Mathlib/Data/Finset/Basic.lean [hunk 6]
```diff
@@ -1131,6 +1122,8 @@ theorem eq_of_not_mem_of_mem_insert (ha : b ∈ insert a s) (hb : b ∉ s) : b =
   (mem_insert.1 ha).resolve_right hb
 #align finset.eq_of_not_mem_of_mem_insert Finset.eq_of_not_mem_of_mem_insert
 
+@[simp] lemma insert_empty : insert a (∅ : Finset α) = {a} := rfl
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Basic.lean:1125]: This already exists as `IsLawfulSingleton.insert_emptyc_eq`, which I assume is exported globally.

Comment (YaelDillies) [reply Mathlib/Data/Finset/Basic.lean:1125]: Yes but it's not simp nor provable by `rfl`

Comment (eric-wieser) [reply Mathlib/Data/Finset/Basic.lean:1125]:
```suggestion
-- A version of `IsLawfulSingleton.insert_emptyc_eq` that works with `dsimp`
@[simp] lemma insert_empty : insert a (∅ : Finset α) = {a} := rfl
```

File: Mathlib/Data/Finset/Grade.lean [hunk 7]
```diff
@@ -0,0 +1,160 @@
...
+to record that the inclusion `Finset α ↪ Multiset α` preserves the covering relation. -/
+instance instGradeMinOrder_multiset : GradeMinOrder (Multiset α) (Finset α) where
+  grade := val
+  grade_strictMono := val_strictMono
+  covby_grade _ _ := Covby.finset_val
+  isMin_grade s hs := by rw [isMin_iff_eq_bot.1 hs]; exact isMin_bot
+
+@[simp] lemma grade_multiset_eq (s : Finset α) : grade (Multiset α) s = s.1 := rfl
+
+instance instGradeMinOrder_nat : GradeMinOrder ℕ (Finset α) where
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Grade.lean:152]: This one should probably be called out in the module docstring

File: Mathlib/Topology/Sets/Closeds.lean [hunk 8]
```diff
@@ -245,18 +245,19 @@ def Opens.complOrderIso : Opens α ≃o (Closeds α)ᵒᵈ where
...
 TODO: use `minimal_nonempty_closed_eq_singleton` to show that an atom in `TopologicalSpace.Closeds`
 in a T₀ space is a singleton. -/
 theorem Closeds.isAtom_iff [T1Space α] {s : Closeds α} :
     IsAtom s ↔ ∃ x, s = Closeds.singleton x := by
-  have : IsAtom (s : Set α) ↔ IsAtom s := by
-    refine' Closeds.gi.isAtom_iff' rfl (fun t ht => _) s
-    obtain ⟨x, rfl⟩ := t.isAtom_iff.mp ht
-    exact closure_singleton
-  simp only [← this, (s : Set α).isAtom_iff, SetLike.ext'_iff, Closeds.singleton_coe]
+  simpa only [← Closeds.isAtom_coe, set.is_atom_iff, set_like.ext_iff, set.ext_iff]
```
Comment (eric-wieser) [inline Mathlib/Topology/Sets/Closeds.lean:260]: Have you considered writing Lean 4 code here?

File: Mathlib/Topology/Sets/Closeds.lean [hunk 9]
```diff
@@ -245,18 +245,19 @@ def Opens.complOrderIso : Opens α ≃o (Closeds α)ᵒᵈ where
...
+@[simp, norm_cast] lemma Closeds.isAtom_coe [T1Space α] {s : Closeds α} :
+    IsAtom (s : Set α) ↔ IsAtom s :=
+  Closeds.gi.isAtom_iff' rfl
+    (fun t ht ↦ by obtain ⟨x, rfl⟩ := Set.isAtom_iff.1 ht; exact closure_singleton) s
+
 /-- in a `T1Space`, atoms of `TopologicalSpace.Closeds α` are precisely the
 `TopologicalSpace.Closeds.singleton`s.
 
 TODO: use `minimal_nonempty_closed_eq_singleton` to show that an atom in `TopologicalSpace.Closeds`
 in a T₀ space is a singleton. -/
```
Comment (eric-wieser) [inline Mathlib/Topology/Sets/Closeds.lean:257]: Is this TODO done?

File: Mathlib/Data/Finset/Grade.lean [hunk 10]
```diff
@@ -0,0 +1,160 @@
...
+  ⟨Covby.exists_multiset_cons, by rintro ⟨a, rfl⟩; exact covby_cons _ _⟩
+
+lemma _root_.Covby.card_multiset (h : s ⋖ t) : card s ⋖ card t := by
+  obtain ⟨a, rfl⟩ := h.exists_multiset_cons; rw [card_cons]; exact covby_succ _
+
+lemma isAtom_iff : IsAtom s ↔ ∃ a, s = {a} := bot_covby_iff.symm.trans covby_iff
+
+@[simp] lemma isAtom_singleton (a : α) : IsAtom ({a} : Multiset α) := isAtom_iff.2 ⟨_, rfl⟩
+
+instance instGradeMinOrder : GradeMinOrder ℕ (Multiset α) where
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Grade.lean:42]: This should be in the module docstring too.

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!

File: Mathlib/Topology/Sets/Closeds.lean (hunk 9 above)
Comment (YaelDillies) [reply Mathlib/Topology/Sets/Closeds.lean:257]: Nope. I'm just restating the existing stuff, not generalising it.

Comment (YaelDillies) [reply Mathlib/Topology/Sets/Closeds.lean]: I have now done it because it was easy

**Comment by YaelDillies** [comment]
bors merge

**Comment by YaelDillies** [comment]
bors merge
